US04838924
2,3-Dihydro-2,2-dimethyl-8-hydroxy-4H-1-benzopyran (a precursor of compound No. 353)
While a mixture of 10 g of catechol, 50 ml of p-xylene, 25 ml of hexane, 1 ml of phosphoric acid and 0.3 ml of water was heated at 100° C., 7.3 g of isoprene was added dropwise over 10 minutes, and the reaction was further carried out for 7 hours. After cooling, the resulting precipitate was separated by filtration. The filtrate was concentrated, and purified by column chromatography to give 1.7 g (yield 11%) of the product as a pale pink liquid.

reactant | catechol | 10 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | p-xylene | 50 ml | CC=1C=CC(=CC1)C | C8H10
reactant | phosphoric acid | 1 ml | P(O)(O)(O)=O | H3O4P
reactant | isoprene | 7.3 g | C=CC(C)=C | C5H8
solvent | water | 0.3 ml | O | H2O
solvent | hexane | 25 ml | CCCCCC | C6H14
product | 2,3-Dihydro-2,2-dimethyl-8-hydroxy-4H-1-benzopyran | 1.7 g, yield 11% | CC1(OC2=C(CC1)C=CC=C2O)C | C11H14O2
